* File: NA4I3X1.pex.netlist.pex
* Created: Fri Jun 30 08:57:05 2017
* Program "Calibre xRC"
* Version "v2017.2_28.22"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NA4I3X1_D_VDD 1 4 8 9 10 14 22 23 24 25 30 46 47 48 49 50 61 68
c74 68 0 0.0686723f
c75 61 0 0.134585f
c76 50 0 0.102449f
c77 47 0 0.212798f
c78 46 0 0.0722803f
c79 40 0 0.0467475f
c80 39 0 0.0458872f
c81 38 0 0.0701213f
c82 36 0 0.0688308f
c83 30 0 0.1082f
c84 25 0 0.344499f
c85 24 0 0.0464354f
c86 23 0 0.0761848f
c87 22 0 0.0683708f
c88 14 0 0.553747f
c89 10 0 0.273051f
c90 9 0 0.0700922f
c91 8 0 0.139373f
c92 4 0 0.487258f
c93 1 0 0.426141f
r94 60 61 0.0085
r95 51 61 0.00941327
r96 50 72 0.0188889
r97 48 68 0.0178947
r98 46 60 0.08075
r99 46 51 0.0377778
r100 37 47 0.273889
r101 37 38 0.0120155
r102 35 46 0.179444
r103 35 36 0.0120155
r104 31 40 0.0231002
r105 30 40 0.0225187
r106 29 72 0.0216719
r107 29 30 0.155833
r108 26 39 0.0231002
r109 25 40 0.0231002
r110 24 39 0.0225187
r111 23 49 0.0521413
r112 23 24 0.19125
r113 22 49 0.0599395
r114 21 68 0.023869
r115 21 22 0.332917
r116 15 38 0.0329425
r117 14 39 0.0231002
r118 11 36 0.0329425
r119 10 38 0.0329425
r120 9 60 0.000882159
r121 8 46 0.0815371
r122 8 9 0.0734091
r123 4 36 0.0329425
r124 1 31 0.085
r125 1 25 0.136
r126 1 26 0.1785
r127 1 14 0.0425
r128 1 15 0.204
r129 1 10 0.1275
r130 1 11 0.1275
r131 1 4 0.204
.ends

.subckt PM_NA4I3X1_NA 2 3 5 7 8 10 11 12 13 14 15 16 20 26 28 31 33 36 42
c73 42 0 0.0583789f
c74 33 0 0.0636966f
c75 31 0 0.0355661f
c76 28 0 0.0508215f
c77 26 0 0.220142f
c78 20 0 0.0431412f
c79 16 0 0.0572565f
c80 15 0 0.0645409f
c81 14 0 0.374749f
c82 13 0 0.118733f
c83 12 0 0.335736f
c84 11 0 0.0665928f
c85 8 0 0.204475f
c86 5 0 0.237604f
c87 3 0 0.496361f
r88 36 46 0.0380283
r89 36 42 0.0141667
r90 31 33 0.0519666
r91 31 32 7
r92 26 39 12.5
r93 25 28 0.0613889
r94 25 26 7
r95 20 28 0.000441044
r96 20 46 0.068
r97 18 21 0.0211726
r98 18 33 0.3825
r99 15 42 0.0334507
r100 15 16 0.113333
r101 14 16 0.0474919
r102 13 14 0.665833
r103 12 32 18.0556
r104 11 12 44.4575
r105 8 11 14.7074
r106 8 10 41.6667
r107 5 7 41.6667
r108 4 39 6.3741
r109 3 5 13.9682
r110 3 4 147.917
r111 2 13 0.0520493
r112 2 21 0.0621485
.ends

.subckt PM_NA4I3X1_D_GND 1 6 7 8 9 24 27 30 40 42 49
c46 49 0 0.79643f
c47 40 0 0.565734f
c48 31 0 0.0701213f
c49 30 0 0.293299f
c50 28 0 0.0701213f
c51 27 0 0.583685f
c52 24 0 0.214781f
c53 10 0 0.220849f
c54 8 0 0.142341f
c55 7 0 0.143605f
c56 6 0 0.102696f
r57 40 49 0.0374263
r58 30 31 0.0329425
r59 29 42 0.02125
r60 29 31 0.0329425
r61 27 28 0.0329425
r62 26 28 0.0329425
r63 16 31 0.0120155
r64 12 28 0.0120155
r65 10 24 0.217222
r66 8 16 0.146389
r67 7 12 0.151111
r68 6 24 0.0373782
r69 1 9 0.0811364
r70 1 49 0.00193182
r71 1 10 0.0244757
r72 1 33 0.0231875
r73 1 40 0.102
r74 1 42 0.14875
r75 1 30 0.1615
r76 1 26 0.119
r77 1 27 0.0765
r78 1 33 0.187
.ends

.subckt PM_NA4I3X1_NB 2 4 5 7 11 13 15 16 23 26 28
c79 28 0 0.0923579f
c80 26 0 0.20321f
c81 23 0 0.0644184f
c82 16 0 0.0839186f
c83 15 0 0.0154371f
c84 13 0 0.0328236f
c85 11 0 0.656323f
c86 7 0 0.264764f
c87 5 0 0.0779f
c88 4 0 0.26192f
c89 2 0 0.153297f
r90 26 31 18.75
r91 26 29 4.6875
r92 25 26 7
r93 23 28 0.0769048
r94 23 25 0.0557812
r95 21 23 0.103594
r96 16 21 0.0168885
r97 15 20 0.0791065
r98 15 16 0.354167
r99 13 20 0.00836008
r100 13 14 0.0991667
r101 9 31 4.96721
r102 9 11 183.333
r103 5 7 66.6667
r104 4 29 4.96721
r105 3 5 18.6821
r106 3 4 89.5833
r107 2 14 0.140216
.ends

.subckt PM_NA4I3X1_OUT1 2 4 5 9 11 13 16 18 21 23 25 32 35 36 39
c82 39 0 0.0787951f
c83 36 0 0.161098f
c84 35 0 0.0260237f
c85 32 0 0.0578314f
c86 25 0 0.11651f
c87 23 0 0.0175536f
c88 21 0 0.0250856f
c89 18 0 0.0753884f
c90 16 0 0.161406f
c91 11 0 0.519585f
c92 9 0 0.260869f
c93 5 0 0.1613f
c94 4 0 0.14527f
c95 2 0 0.066577f
r96 39 44 0.0619395
r97 36 41 10.355
r98 35 37 0.0519666
r99 35 36 7
r100 32 33 0.142345
r101 25 33 0.00685201
r102 25 37 0.460417
r103 23 35 0.0519666
r104 22 23 0.155833
r105 21 44 0.0213094
r106 20 32 0.00685201
r107 20 21 0.177083
r108 19 29 0.0216719
r109 18 22 0.177428
r110 18 19 0.141667
r111 14 16 31.25
r112 11 13 141.667
r113 7 16 1.46822
r114 7 9 58.3333
r115 6 41 5.62117
r116 5 11 13.9682
r117 5 6 27.0833
r118 4 36 15.4498
r119 3 14 1.46822
r120 3 4 50
r121 2 29 0.0188889
.ends

.subckt PM_NA4I3X1_N$108 2 3 5 8 9 11 12 13 15 16 18 21 24 25 26 29 30 33 38 41
+ 42 43 45 47 50 57 58
c125 58 0 0.0458074f
c126 57 0 0.160108f
c127 50 0 0.249128f
c128 47 0 0.0289716f
c129 45 0 0.0268091f
c130 43 0 0.0317871f
c131 42 0 0.105125f
c132 41 0 0.212255f
c133 38 0 0.0991494f
c134 33 0 0.0700101f
c135 30 0 0.00868113f
c136 29 0 0.053192f
c137 26 0 0.0160517f
c138 25 0 0.0281457f
c139 24 0 0.0345671f
c140 21 0 0.186148f
c141 16 0 0.184107f
c142 15 0 0.174086f
c143 13 0 0.0797244f
c144 12 0 0.240249f
c145 9 0 0.224912f
c146 8 0 0.186087f
c147 5 0 0.208218f
c148 3 0 0.465493f
r149 50 58 0.0208355
r150 50 58 0.188889
r151 46 57 15.2843
r152 45 47 0.0519666
r153 45 46 7
r154 43 47 0.184167
r155 42 43 0.0636438
r156 41 53 12.5
r157 40 41 7
r158 38 50 0.0425
r159 38 40 0.14011
r160 29 50 0.0291697
r161 29 30 0.205417
r162 28 36 0.00848816
r163 28 42 0.4675
r164 26 30 0.0474919
r165 25 36 0.0397988
r166 25 26 0.262083
r167 24 36 0.0723908
r168 23 33 0.0207595
r169 23 24 0.262083
r170 19 21 37.5
r171 16 18 25
r172 14 21 1.46822
r173 14 15 66.6667
r174 12 16 13.9682
r175 12 13 62.5
r176 9 11 41.6667
r177 8 19 1.46822
r178 7 13 13.9682
r179 7 8 62.5
r180 5 15 13.9682
r181 5 57 43.75
r182 4 53 6.3741
r183 3 9 13.9682
r184 3 4 129.167
r185 2 33 0.0724432
.ends

.subckt PM_NA4I3X1_OUT2 2 3 5 9 11 15 18 20 21 22 27 28 36 37 41
c108 41 0 0.0674357f
c109 37 0 0.133919f
c110 36 0 0.075787f
c111 28 0 0.0197704f
c112 27 0 0.0163102f
c113 22 0 0.034958f
c114 21 0 0.0107795f
c115 20 0 0.0109366f
c116 18 0 0.0319958f
c117 15 0 0.018642f
c118 11 0 0.0563046f
c119 9 0 0.221707f
c120 5 0 0.769731f
c121 3 0 0.218788f
c122 2 0 0.0797903f
r123 36 41 0.0566888
r124 28 29 0.177368
r125 24 27 0.0519666
r126 24 25 7
r127 21 22 0.141667
r128 19 37 0.0782632
r129 19 20 0.066022
r130 18 37 0.176372
r131 17 21 0.0500053
r132 17 18 0.23375
r133 16 28 0.00658282
r134 15 30 0.00937174
r135 15 16 0.141667
r136 13 20 0.0500053
r137 13 41 0.3825
r138 11 29 0.00658282
r139 11 27 0.255
r140 7 25 21.3971
r141 7 9 39.5833
r142 3 25 15.2273
r143 3 5 233.333
r144 2 22 0.108483
r145 2 30 0.0191441
.ends

.subckt PM_NA4I3X1_OUT 2 3 4 6 8 9 14
c45 14 0 0.114925f
c46 9 0 0.0750997f
c47 6 0 0.0738642f
c48 4 0 0.213346f
c49 3 0 0.0913141f
r50 14 17 0.0817308
r51 8 9 0.0818136
r52 6 17 0.0184824
r53 5 9 0.0430598
r54 5 6 0.332917
r55 4 9 0.0254245
r56 3 4 0.559583
r57 2 3 0.127973
.ends

.subckt PM_NA4I3X1_NC 2 4 7 9 10 12 15 22 23 24 32 34 38
c61 38 0 0.0220993f
c62 34 0 0.130171f
c63 32 0 0.0693231f
c64 24 0 0.235134f
c65 23 0 0.162209f
c66 22 0 0.0497288f
c67 15 0 0.113538f
c68 10 0 0.0670342f
c69 9 0 0.625296f
c70 7 0 0.275898f
c71 4 0 0.311986f
c72 2 0 0.103819f
r73 32 38 0.0392853
r74 25 38 0.0566667
r75 23 34 15.2843
r76 22 25 0.0170015
r77 22 24 0.0536722
r78 22 23 7
r79 19 26 0.0216719
r80 19 24 0.566667
r81 15 16 18.5185
r82 14 34 39.5833
r83 10 12 41.6667
r84 9 14 54.453
r85 9 12 41.6667
r86 5 16 0.129719
r87 5 7 68.75
r88 4 10 13.9682
r89 3 15 0.129719
r90 3 4 114.583
r91 2 26 0.0425
.ends

.subckt PM_NA4I3X1_A 1 3 5 7 8 10 13 17 20
c40 20 0 0.0641267f
c41 17 0 0.205943f
c42 13 0 0.24084f
c43 8 0 0.228434f
c44 7 0 0.110724f
c45 5 0 0.350051f
c46 1 0 0.245267f
r47 17 22 15.2778
r48 16 20 0.0519444
r49 16 17 7
r50 11 13 47.9167
r51 8 13 1.46822
r52 8 10 41.6667
r53 7 11 1.46822
r54 6 22 6.3741
r55 6 7 39.5833
r56 5 22 6.3741
r57 4 5 122.917
r58 1 4 13.9682
r59 1 3 25
.ends

.subckt PM_NA4I3X1_B 1 3 5 6 10 14 17 23
c47 23 0 0.138807f
c48 17 0 0.0396851f
c49 14 0 0.190836f
c50 10 0 0.353371f
c51 6 0 0.319341f
c52 5 0 0.3028f
c53 1 0 0.154995f
r54 19 23 15.2843
r55 19 20 4.16667
r56 17 19 7
r57 12 14 37.5
r58 8 10 72.9167
r59 6 8 13.9682
r60 6 23 79.1667
r61 5 20 6.3741
r62 4 14 1.46822
r63 4 5 106.25
r64 1 12 1.46822
r65 1 3 25
.ends

.subckt PM_NA4I3X1_D 2 3 5 6 7 8 10 13 15 18 19 21
c56 21 0 0.186977f
c57 19 0 0.049488f
c58 18 0 0.152279f
c59 15 0 0.0561725f
c60 13 0 0.104782f
c61 8 0 0.216802f
c62 7 0 0.08509f
c63 6 0 0.169643f
c64 3 0 0.205301f
c65 2 0 0.652805f
r66 18 21 15.2843
r67 18 19 7
r68 13 14 18.018
r69 12 15 10.5861
r70 12 21 60.4167
r71 8 15 2.75115
r72 8 10 41.6667
r73 6 15 10.5861
r74 6 7 54.1667
r75 3 14 0.482304
r76 3 5 43.75
r77 2 7 13.9682
r78 1 13 0.482304
r79 1 2 227.083
.ends

.subckt PM_NA4I3X1_C 1 3 5 7 12 14 17 20
c22 20 0 0.33461f
c23 17 0 0.149893f
c24 14 0 0.0559788f
c25 12 0 0.611728f
c26 5 0 0.308205f
c27 1 0 0.427267f
r28 17 21 15.2843
r29 17 20 15.2843
r30 14 17 7
r31 12 21 177.083
r32 9 20 97.9167
r33 5 9 13.9682
r34 5 7 39.5833
r35 1 12 13.9682
r36 1 3 68.75
.ends

