* File: NA5I1X1.pex.netlist.pex
* Created: Fri Jun 30 08:58:34 2017
* Program "Calibre xRC"
* Version "v2017.2_28.22"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NA5I1X1_D_VDD 1 4 10 14 18 35 39 40 48 49 50 51 52 66
c55 66 0 0.101878f
c56 52 0 0.121125f
c57 51 0 0.0739332f
c58 50 0 0.25673f
c59 49 0 0.14457f
c60 42 0 0.0688308f
c61 40 0 0.0379623f
c62 39 0 0.0322851f
c63 38 0 0.0779126f
c64 35 0 0.0303425f
c65 33 0 0.0701213f
c66 31 0 0.0467475f
c67 18 0 0.562503f
c68 14 0 0.26989f
c69 10 0 0.31385f
c70 9 0 0.109712f
c71 4 0 0.33083f
c72 1 0 0.424594f
r73 51 70 0.0292431
r74 48 66 0.0188889
r75 41 52 0.269167
r76 41 42 0.0120155
r77 39 52 0.00472222
r78 39 40 0.0519666
r79 37 50 0.153
r80 37 38 0.00935391
r81 36 50 0.136944
r82 35 50 0.03825
r83 35 36 0.0435353
r84 32 49 0.17
r85 32 33 0.0120155
r86 27 42 0.0329425
r87 25 70 0.0203888
r88 25 40 0.198333
r89 19 38 0.0359928
r90 18 42 0.0329425
r91 15 33 0.0329425
r92 14 38 0.0359928
r93 11 31 0.0231002
r94 10 33 0.0329425
r95 9 31 0.0225187
r96 8 66 0.0216719
r97 8 9 0.155833
r98 4 31 0.0231002
r99 1 27 0.1445
r100 1 18 0.051
r101 1 19 0.204
r102 1 14 0.119
r103 1 15 0.13175
r104 1 10 0.19975
r105 1 11 0.07225
r106 1 4 0.14875
.ends

.subckt PM_NA5I1X1_D_GND 1 7 8 9 10 11 24 27 30 41 51 58
c46 58 0 0.825034f
c47 51 0 0.471767f
c48 31 0 0.0701213f
c49 30 0 0.37963f
c50 28 0 0.0701213f
c51 27 0 0.307721f
c52 24 0 0.44183f
c53 12 0 0.197176f
c54 11 0 0.165058f
c55 10 0 0.1465f
c56 7 0 0.112797f
c57 1 0 0.30454f
r58 30 31 0.0329425
r59 29 31 0.0329425
r60 27 28 0.0329425
r61 26 41 0.02125
r62 26 28 0.0329425
r63 18 31 0.0120155
r64 14 28 0.0120155
r65 12 24 0.750833
r66 11 18 0.151111
r67 10 14 0.151111
r68 9 58 0.0626608
r69 8 51 0.0626608
r70 7 24 0.0519666
r71 1 9 0.0301974
r72 1 8 0.00671053
r73 1 12 0.0288477
r74 1 34 0.0226103
r75 1 29 0.0085
r76 1 30 0.187
r77 1 41 0.14875
r78 1 27 0.1615
r79 1 58 0.119
r80 1 51 0.20825
r81 1 34 0.21675
.ends

.subckt PM_NA5I1X1_OUT1 2 3 7 9 11 13 15 19 20 21 22 24 27 30 37 38 40 42 46 47
+ 48 54 56
c104 56 0 0.09022f
c105 54 0 0.0307814f
c106 48 0 0.169352f
c107 46 0 0.0904296f
c108 42 0 0.0617811f
c109 40 0 0.0144348f
c110 38 0 0.0171711f
c111 37 0 0.0212185f
c112 30 0 0.0115803f
c113 27 0 0.0668628f
c114 24 0 0.169227f
c115 22 0 0.02914f
c116 21 0 0.0470035f
c117 20 0 0.0358469f
c118 19 0 0.0128467f
c119 15 0 0.0607799f
c120 13 0 0.116905f
c121 9 0 0.524777f
c122 7 0 0.552458f
c123 3 0 0.120053f
c124 2 0 0.104692f
r125 47 56 0.0533676
r126 46 54 0.0566888
r127 41 48 5.55556
r128 40 42 0.0519666
r129 40 41 7
r130 30 56 0.0205746
r131 29 30 0.085
r132 28 38 0.0359928
r133 27 29 0.0474919
r134 27 28 0.14875
r135 26 37 0.00935391
r136 26 42 0.304583
r137 24 38 0.00935391
r138 23 37 0.0359928
r139 23 24 0.53125
r140 22 37 0.0359928
r141 21 22 0.205417
r142 19 38 0.0359928
r143 19 20 0.1275
r144 17 20 0.0474919
r145 17 54 0.085
r146 16 34 0.0216719
r147 15 21 0.156382
r148 15 16 0.311667
r149 12 13 20.8333
r150 9 13 1.46822
r151 9 11 141.667
r152 5 12 1.46822
r153 5 7 152.083
r154 4 48 6.3741
r155 3 12 12.5
r156 3 4 41.6667
r157 2 34 0.0330556
.ends

.subckt PM_NA5I1X1_NA 2 5 8 13 15 20 22 25 26 28 30 33 35 39 44
c53 44 0 0.104357f
c54 39 0 0.248705f
c55 35 0 0.240769f
c56 30 0 0.123055f
c57 28 0 0.0437961f
c58 26 0 0.0155621f
c59 25 0 0.161718f
c60 22 0 0.0409254f
c61 20 0 0.0446857f
c62 15 0 0.117687f
c63 13 0 0.0542035f
c64 8 0 0.566838f
c65 2 0 0.0710122f
r66 33 44 0.0377778
r67 29 39 18.0556
r68 28 30 0.0519666
r69 28 29 7
r70 25 35 15.2843
r71 24 25 7
r72 22 24 0.034117
r73 17 26 0.00935391
r74 17 30 0.198333
r75 15 44 0.0216719
r76 14 26 0.0359928
r77 14 15 0.247917
r78 13 26 0.0359928
r79 13 21 0.120417
r80 10 22 0.0203888
r81 10 20 0.1275
r82 6 39 6.3741
r83 6 8 147.917
r84 5 35 56.25
r85 2 21 0.0519666
r86 2 20 0.0519666
.ends

.subckt PM_NA5I1X1_N$108 2 3 6 7 9 10 11 14 17 18 20 30 32 35 36 41 42 47
c88 47 0 0.304635f
c89 42 0 0.225197f
c90 41 0 0.0341636f
c91 36 0 0.037952f
c92 35 0 0.211643f
c93 32 0 0.102191f
c94 30 0 0.0828701f
c95 20 0 0.0329925f
c96 18 0 0.0221725f
c97 17 0 0.105803f
c98 14 0 0.195806f
c99 11 0 0.0756335f
c100 10 0 0.263334f
c101 7 0 0.240245f
c102 6 0 0.112379f
c103 3 0 0.462882f
c104 2 0 0.0674555f
r105 42 53 20.5177
r106 41 44 0.0188889
r107 41 42 7
r108 36 38 0.0920833
r109 35 50 12.5
r110 34 35 7
r111 32 47 0.146389
r112 32 34 0.14011
r113 29 47 0.193611
r114 28 30 0.0522107
r115 28 29 0.0133396
r116 26 28 0.135227
r117 21 36 0.00499195
r118 20 44 0.0216719
r119 20 21 0.219583
r120 18 38 0.00499195
r121 18 30 0.134583
r122 17 26 0.029859
r123 17 25 0.396667
r124 12 14 37.5
r125 10 12 13.9682
r126 10 11 58.3333
r127 7 9 41.6667
r128 6 53 4.84696
r129 5 11 13.9682
r130 5 6 37.5
r131 4 50 6.3741
r132 3 7 13.9682
r133 3 4 129.167
r134 2 25 0.0519666
.ends

.subckt PM_NA5I1X1_OUT2 2 3 5 9 11 14 16 17 18 19 20 21 24 25 37 38
c94 38 0 0.0785207f
c95 25 0 0.0296727f
c96 24 0 0.119569f
c97 21 0 0.0130939f
c98 20 0 0.094901f
c99 19 0 0.0798363f
c100 18 0 0.00814263f
c101 17 0 0.0188158f
c102 16 0 0.0741281f
c103 14 0 0.00699533f
c104 11 0 0.0609108f
c105 9 0 0.215338f
c106 5 0 0.731786f
c107 3 0 0.288952f
c108 2 0 0.114073f
r109 28 29 7
r110 25 28 0.0283333
r111 23 24 0.34
r112 21 23 0.0474919
r113 21 22 0.0920833
r114 20 37 0.057244
r115 19 24 0.0474919
r116 19 20 0.162917
r117 17 31 0.0268062
r118 17 18 0.141667
r119 16 38 0.0566888
r120 15 37 0.142981
r121 15 16 0.425
r122 13 18 0.0474919
r123 13 14 0.10625
r124 12 25 0.0216719
r125 11 14 0.0474919
r126 11 12 0.2125
r127 7 29 26.0827
r128 7 9 37.5
r129 3 29 15.5962
r130 3 5 222.917
r131 2 22 0.0915769
r132 2 31 0.0166503
.ends

.subckt PM_NA5I1X1_OUT 2 8 10 12 20 21 24 28
c32 28 0 0.778006f
c33 24 0 0.114143f
c34 21 0 0.0503805f
c35 20 0 0.168803f
c36 19 0 0.0516096f
c37 12 0 0.30042f
c38 10 0 0.0506361f
c39 8 0 0.256092f
c40 2 0 0.102216f
r41 24 32 0.059739
r42 20 28 15.2843
r43 19 21 0.0519666
r44 19 20 7
r45 12 26 33.1565
r46 10 13 0.06375
r47 10 12 7
r48 8 13 0.0168885
r49 8 17 0.4675
r50 6 32 0.0257945
r51 6 21 0.1275
r52 3 26 4.25758
r53 3 28 218.75
r54 2 17 0.0519666
.ends

.subckt PM_NA5I1X1_A 1 2 3 5 8 11
c23 11 0 0.018669f
c24 8 0 0.209293f
c25 3 0 0.33447f
c26 2 0 0.35256f
c27 1 0 0.335147f
r28 11 14 7
r29 6 14 27.6432
r30 6 8 37.5
r31 3 5 41.6667
r32 2 3 13.9682
r33 1 14 15.4101
r34 1 2 106.25
.ends

.subckt PM_NA5I1X1_B 3 5 9 13 14 17 20 23
c54 23 0 0.169756f
c55 20 0 0.16617f
c56 17 0 0.0239633f
c57 14 0 0.135845f
c58 13 0 0.0467064f
c59 9 0 0.545761f
c60 5 0 0.312275f
c61 3 0 0.271275f
r62 20 24 15.219
r63 20 23 15.219
r64 17 20 7
r65 13 14 16.6667
r66 11 15 3.02777
r67 11 23 54.1667
r68 9 24 147.917
r69 6 13 10
r70 5 15 49.976
r71 5 6 35.4167
r72 1 14 14.7074
r73 1 3 81.25
.ends

.subckt PM_NA5I1X1_E 1 3 4 5 8 10 13 15 19 21 22 24
c63 24 0 0.193029f
c64 22 0 0.160075f
c65 21 0 0.0989605f
c66 19 0 0.0193815f
c67 13 0 0.0398007f
c68 10 0 0.111779f
c69 8 0 0.628825f
c70 5 0 0.0556613f
c71 4 0 0.147409f
c72 1 0 0.232132f
r73 22 30 15.2843
r74 21 23 0.157624
r75 21 22 7
r76 18 24 8.33333
r77 15 19 0.0519666
r78 15 18 7
r79 13 23 0.0130406
r80 12 13 0.2975
r81 10 12 0.0474919
r82 10 19 0.304583
r83 8 30 164.583
r84 4 24 6.3741
r85 4 5 54.1667
r86 1 5 15.9637
r87 1 3 56.25
.ends

.subckt PM_NA5I1X1_C 2 5 7 8 10 11 17 19
c41 19 0 0.198122f
c42 17 0 0.0359305f
c43 11 0 0.0985686f
c44 8 0 0.0670342f
c45 7 0 0.227119f
c46 5 0 0.341639f
c47 2 0 0.248645f
r48 15 19 9.72222
r49 15 17 7
r50 11 12 18.018
r51 8 10 41.6667
r52 7 19 6.3741
r53 7 10 56.25
r54 3 12 0.482304
r55 3 5 91.6667
r56 2 8 13.9682
r57 1 11 0.482304
r58 1 2 91.6667
.ends

.subckt PM_NA5I1X1_D 2 5 7 8 9 11 14 16 18 21 23 26 30
c59 30 0 0.360634f
c60 26 0 0.0653329f
c61 23 0 0.0464748f
c62 21 0 0.156298f
c63 18 0 0.0440203f
c64 16 0 0.0561713f
c65 14 0 0.0991297f
c66 9 0 0.221817f
c67 8 0 0.0852628f
c68 7 0 0.183869f
c69 5 0 0.228169f
c70 2 0 0.599533f
r71 26 28 0.0519666
r72 21 30 15.2843
r73 20 23 0.0236111
r74 20 21 7
r75 18 23 0.0216719
r76 18 28 0.113333
r77 14 15 18.5185
r78 13 16 10.5861
r79 13 30 116.667
r80 9 16 2.75115
r81 9 11 41.6667
r82 7 16 10.5861
r83 7 8 58.3333
r84 3 15 0.129719
r85 3 5 54.1667
r86 2 8 13.9682
r87 1 14 0.129719
r88 1 2 208.333
.ends

